US08193199B2
A mixture of 3,5-dichloro-2-methylquinoxaline (1.1209 g, 5.261 mmol), 2-(trifluoromethyl)phenylboronic acid (1.099 g, 5.787 mmol), tetrakis(triphenyl-phosphine)palladium (0.3040 g, 0.2630 mmol), and sodium carbonate anhydrous (2.788 g, 26.30 mmol) in 53 mL of CH3CN—H2O (3:1) was stirred at 100° C. After 13.5 h, the mixture was cooled to room temperature and partitioned between EtOAc (100 mL) and water (100 mL). The organic layer was washed with brine (50 mL×3), dried over Na2SO4, filtered, and concentrated under reduced pressure to give a red syrup. The red syrup was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and then 50% isocratic of EtOAc for 20 min as eluent to give 5-chloro-2-methyl-3-(2-(trifluoromethyl)phenyl)quinoxaline as a red solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.09 (1H, dd, J=8.4, 1.4 Hz), 8.02 (1H, dd, J=7.6, 1.2 Hz), 7.98 (1H, d, J=7.8 Hz), 7.73-7.92 (4H, m), 2.47 (3H, s); LC-MS (ESI) m/z 323.0 [M+H]+.

reactant | 3,5-dichloro-2-methylquinoxaline | 5.261 mmol, 1.1209 g | ClC=1C(=NC2=CC=CC(=C2N1)Cl)C | C9H6Cl2N2
reactant | 2-(trifluoromethyl)phenylboronic acid | 5.787 mmol, 1.099 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate anhydrous | 26.30 mmol, 2.788 g | C(=O)(O)O | CH2O3
solvent | CH3CN—H2O | 53 mL | CC#N.O
product | 5-chloro-2-methyl-3-(2-(trifluoromethyl)phenyl)quinoxaline | ClC1=C2N=C(C(=NC2=CC=C1)C)C1=C(C=CC=C1)C(F)(F)F | C16H10ClF3N2
